* Post-layout transient of extracted 5-stage transistor ring (mos_tt, 1.2 V).
.include out/pdk.lib
.include ../macro/ring_oscillator_extracted.spice

Xdut out VPWR VGND ring_oscillator
vvdd VPWR 0 dc 1.2
vvss VGND 0 0
.ic v(out)=0 v(xdut.x1/A)=1.2

.control
  tran 50p 200n uic
  wrdata out/ring.dat v(out)
  write out/ring.raw v(out)
  meas tran t_r2 when v(out)=0.6 rise=2
  meas tran t_r12 when v(out)=0.6 rise=12
  print t_r2 t_r12
.endc
.end
