* Pre-layout transient of 5-stage transistor ring (~500 MHz, mos_tt, 1.2 V).
.include out/pdk.lib
.include out/lch.param
.include ../schematic/transistor_ring_oscillator_5.spice

.param pre_layout=1

Xdut out VPWR VGND trosc5 lch={lch}
vvdd VPWR 0 dc 1.2
vvss VGND 0 0
.ic v(xdut.n1)=1.2 v(out)=0 v(xdut.n2)=0 v(xdut.n3)=0 v(xdut.n4)=0

.control
  tran 50p 200n uic
  wrdata out/ring.dat v(out) v(xdut.n1) v(xdut.n2)
  write out/ring.raw v(out) v(xdut.n1) v(xdut.n2)
  meas tran t_r2 when v(out)=0.6 rise=2
  meas tran t_r12 when v(out)=0.6 rise=12
  print t_r2 t_r12
.endc
.end
